US07576115B2
Synthesis of 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid
From methyl 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate (56.2 mg, 0.12 mmol) and 0.2 M sodium hydroxide aqueous solution (1.26 mL, 0.25 mmol), 46.3 mg of the desired product was obtained in the same manner as in Synthetic Example 70 as a pale yellow solid (yield 85%).

reactant | methyl 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | 0.12 mmol, 56.2 mg | FC1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C25H25FN2O4S
reactant | sodium hydroxide | 0.25 mmol, 0.2 M, 1.26 mL | [OH-].[Na+]
product | 2-fluoro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid | 46.3 mg | FC1=C(C(=O)O)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C24H23FN2O4S
